US07459562B2
B) 1-(3-Fluoro-4-(pyridin-4-yloxy)phenyl)-3-(2-(4-fluorophenyl)acetyl)urea
Silver cyanate (0.912 g, 6.08 mmol, 1.05 eq) was added to a solution of 4-fluorophenylacetyl chloride (Aldrich, 0.794 mL, 5.79 mmol, 1.0 eq) in toluene (16 mL) at room temperature shielded from light. The reaction mixture was heated to reflux for 60 minutes and then cooled to room temperature. The reaction mixture was filtered (Acrodisc, PTFE 0.2 μM) and the resultant 2-(4-fluorophenyl)acetyl isocyanate solution (0.36 M, 0.75 mL, 0.27 mmol, 1.1 eq) was added to a solution of 3-fluoro-4-(pyridin-4-yloxy)benzenamine (0.050 g, 0.245 mmol, 1.0 eq) in CH2Cl2 (2.0 mL) at room temperature. The reaction mixture was stirred at room temperature for 1 h, quenched with saturated aqueous NaCl solution and the mixture was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (Merck, 40-63 μM, 230-240 mesh, eluting 0-5% MeOH in CHCl3) to afford the title compound (0.043 g, 46%) as a solid. 1H NMR (DMSO-d6) δ 11.06 (s, 1H), 10.60 (s, 1H), 8.47 (s, 2H), 7.77-7.80 (m, 1H), 6.92-7.48 (m, 8H), 3.75 (s, 2H); MS(ESI+) m/z 384 (M+H)+; HRMS(ESI+) calcd.: 384.1160, found: 384.1147.

reactant | 4-fluorophenylacetyl chloride | 5.79 mmol, 0.794 mL, 1.0 eq | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | 2-(4-fluorophenyl)acetyl isocyanate | 0.27 mmol, 0.36 M, 0.75 mL, 1.1 eq | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
reactant | 3-fluoro-4-(pyridin-4-yloxy)benzenamine | 0.245 mmol, 0.050 g, 1.0 eq | FC=1C=C(C=CC1OC1=CC=NC=C1)N | C11H9FN2O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
catalyst | Silver cyanate | 6.08 mmol, 0.912 g, 1.05 eq | [Ag]OC#N
product | 1-(3-Fluoro-4-(pyridin-4-yloxy)phenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 0.043 g, 46% | FC=1C=C(C=CC1OC1=CC=NC=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C20H15F2N3O3
